US04003908
By replacing 7-chloro-3-ethyl-5-methyl-3H-imidazo-[4,5-b]pyridine-6-carboxylic acid ethyl ester in Example 1 e with 3-butyl-7-chloro-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester, 3-butyl-7-ethoxy-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester is obtained. Yield 81%, b.p. 200°-210° /0.01. An equivalent of aqueous sodium hydroxide is added to an ethanol solution of the ethyl ester and refluxed for 1 hour. The reaction mixture is then taken to dryness, the residue is suspended in water and HCl to pH 4 is added. The precipitated solid is filtered off to obtain the free carboxylic acid. The sodium salt is obtained by dissolving this product in one equivalent of aqueous sodium hydroxide and freeze drying.

reactant | 7-chloro-3-ethyl-5-methyl-3H-imidazo-[4,5-b]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=C2C(=NC1C)N(C=N2)CC)Cl | C12H14ClN3O2
reactant | 3-butyl-7-chloro-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester | C(CCC)N1C=NC=2C1=NC(=C(C2Cl)C(=O)OCC)C | C14H18ClN3O2
product | 3-butyl-7-ethoxy-5-methyl-3H-imidazo[4,5-b]pyridine-6-carboxylic acid, ethyl ester | Yield 81% | C(CCC)N1C=NC=2C1=NC(=C(C2OCC)C(=O)OCC)C | C16H23N3O3
